US05817813
A mixture of 4-Amino-pyrido[2,3-e]pyrimidin-2-one (95 mg) and α-bromo-acetophenone (117 mg) in 4 mL of dimethylformamide (DMF) was heated at about 150° C. for 20 min. The reaction mixture was concentrated in vacuo and the residue was subjected to flash chromatography on silica gel with 10% methanol/methylene chloride as the eluent to afford 2-Phenylimidazo[1,2-c]pyrido[2,3-e]pyrimidin-5(6H)-one. (Compound 15), m.p. 329°-330° C.

reactant | 4-Amino-pyrido[2,3-e]pyrimidin-2-one | 95 mg | NC1=NC(NC2=C1N=CC=C2)=O | C7H6N4O
reactant | α-bromo-acetophenone | 117 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-Phenylimidazo[1,2-c]pyrido[2,3-e]pyrimidin-5(6H)-one | C1(=CC=CC=C1)C=1N=C2N(C(NC3=C2N=CC=C3)=O)C1 | C15H10N4O
